US07241791B2
4-[1-(3-bromophenyl)-6-hydroxy-1H-indazol-3-yl]benzene-1,3-diol
Prepared according to Method B from 2,2′,4,4′-tetrahydroxybenzophenone (0.123 g, 0.5 mmol), sodium acetate (0.041 g, 0.5 mmol) and 3-bromophenylhydrazine hydrochloride (0.112 g, 0.5 mmol) to give 0.016 g of product as a tan solid.

reactant | 2,2′,4,4′-tetrahydroxybenzophenone | 0.5 mmol, 0.123 g | OC1=C(C(=O)C2=C(C=C(C=C2)O)O)C=CC(=C1)O | C13H10O5
reactant | sodium acetate | 0.5 mmol, 0.041 g | C(C)(=O)[O-].[Na+]
reactant | 3-bromophenylhydrazine hydrochloride | 0.5 mmol, 0.112 g | Cl.BrC=1C=C(C=CC1)NN
product | 4-[1-(3-bromophenyl)-6-hydroxy-1H-indazol-3-yl]benzene-1,3-diol | 0.016 g | BrC=1C=C(C=CC1)N1N=C(C2=CC=C(C=C12)O)C1=C(C=C(C=C1)O)O | C19H13BrN2O3
